US04027023
Palladium on charcoal catalyst (30% w/w; 100 mg.) was added to a solution of ethyl 6-(benzyloxycarbonylamino)-cinnolin-3-yl carboxylate (1 g.) in dry ethanol (25 ml.). The solution was shaken in an atmosphere of hydrogen at room temperature and atmospheric pressure for 24 hours. The mixture was filtered and the filtrate evaporated in vacuo to give, as solid residue, ethyl 6-aminocinnolin-3-yl carboxylate.

reactant | ethyl 6-(benzyloxycarbonylamino)-cinnolin-3-yl carboxylate | 1 g | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C19H17N3O4
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on charcoal | 100 mg | [Pd] | Pd
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | ethyl 6-aminocinnolin-3-yl carboxylate | NC=1C=C2C=C(N=NC2=CC1)C(=O)OCC | C11H11N3O2
